US09062028B2
Step B. 1-(5-Bromo-3,4-dihydroquinolin-1(2H)-yl)-2-(2,3-dimethylphenethoxy)ethanone
To a suspension of sodium hydride (35.1 mg, 1.46 mmol) in anhydrous THF (3.0 mL) under nitrogen was added 2-(2,3-dimethylphenyl)ethanol (220 mg, 1.46 mmol). The reaction mixture was stirred at room temperature for 15 min and then a solution of 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-2-chloroethanone (352 mg, 1.22 mmol) in anhydrous THF (3.0 mL) was added. The resulting mixture was stirred at room temperature for 18 h. After this time, the reaction mixture was diluted with saturated sodium bicarbonate (55 mL) and then extracted with ethyl acetate (60 mL). The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue was purified by preparative HPLC (PHENOMENEX® Axia Luna, 5μ, C18, 30×250 mm; 25 min gradient from 80% A:20% B to 0% A:100% B and 5 min 100% B (A=90% H2O/10% MeOH+0.1% TFA); (B=90% MeOH/10% H2O+0.1% TFA); detection at 220 nm) to afford the title compound (55 mg, 11% yield) as white powder. LCMS, [M+H]+=402.1. 1H NMR (400 MHz, CDCl3) δ 7.37 (d, J=8.0 Hz, 1H), 7.30 (br. s, 1H), 7.02-6.96 (m, 4H), 4.20 (s, 2H), 3.74-3.69 (m, 2H), 3.66 (t, J=7.4 Hz, 2H), 2.92 (t, J=7.4 Hz, 2H), 2.78 (t, J=6.9 Hz, 2H), 2.24 (s, 3H), 2.18 (s, 3H), 1.99-1.90 (m, 2H).

reactant | sodium hydride | 1.46 mmol, 35.1 mg | [H-].[Na+]
reactant | 2-(2,3-dimethylphenyl)ethanol | 1.46 mmol, 220 mg | CC1=C(C=CC=C1C)CCO | C10H14O
reactant | 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-2-chloroethanone | 1.22 mmol, 352 mg | BrC1=C2CCCN(C2=CC=C1)C(CCl)=O | C11H11BrClNO
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | 55 mL | C([O-])(O)=O.[Na+]
product | 1-(5-Bromo-3,4-dihydroquinolin-1(2H)-yl)-2-(2,3-dimethylphenethoxy)ethanone | 55 mg, 11% yield | BrC1=C2CCCN(C2=CC=C1)C(COCCC1=C(C(=CC=C1)C)C)=O | C21H24BrNO2
